US06818644B1
b. tert.butyl 4-(6-phenyl-pyridin-2-yl)-piperazine-1-carboxylate
A mixture of 2 g (5.84 mmol) of tert.butyl 4-(6-bromo-pyridin-2-yl)-piperazine-1-carboxylate, 0.75 g (6.15 mmol) of phenylboric acid, 2.66 g (17.52 mmol) of caesium fluoride, 0.045 g (0.15 mmol) of 2-(di-t-butylphosphino)-biphenyl and 0.013 g (0.06 mmol) of palladium acetate in 20 ml of dioxane is stirred for six hours at 50° C. under nitrogen. Then it is diluted with water and the reaction mixture is extracted with ethyl acetate. The organic phase is separated off and dried over sodium sulphate. Purification is by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate=4:1).

reactant | tert.butyl 4-(6-bromo-pyridin-2-yl)-piperazine-1-carboxylate | 5.84 mmol, 2 g | BrC1=CC=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20BrN3O2
reactant | phenylboric acid | 6.15 mmol, 0.75 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | caesium fluoride | 17.52 mmol, 2.66 g | [F-].[Cs+]
reactant | 2-(di-t-butylphosphino)-biphenyl | 0.15 mmol, 0.045 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium acetate | 0.06 mmol, 0.013 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert.butyl 4-(6-phenyl-pyridin-2-yl)-piperazine-1-carboxylate | C1(=CC=CC=C1)C1=CC=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H25N3O2
